US08252509B2
A 2 L three-necked flask fitted with a thermometer, a stirrer, a nitrogen inlet tube and a dropping funnel was charged with 217.2 g (2.400 mol) of acryloyl chloride and 520 g of toluene, and the internal temperature was cooled to 0° C. 190.4 g (2.880 mol) of cyclopentadiene was then added dropwise from the dropping funnel over a period of 1 hour. Following completion of the dropwise addition, the resulting mixture was stirred for 1 hour at 0° C., thereby preparing a reaction intermediate solution. A 2 L three-necked flask fitted with a thermometer, a stirrer, a nitrogen inlet tube and a dropping funnel was charged with 201.1 g (2.750 mol) of tert-butylamine and 513 g of toluene, and the internal temperature was cooled to 0° C. The reaction intermediate solution prepared previously was added dropwise thereto from the dropping funnel over a period of 1.5 hours, and the internal temperature was then raised to 25° C. To the reaction mixture were added 1.800 ml of ethyl acetate and 300 ml of water, and following 30 minutes of stirring, the resulting mixture was allowed to stand to obtain an organic layer. The resulting organic layer was concentrated under reduced pressure. To the obtained concentrate were added 750 ml of ethyl acetate and 250 ml of hexane, and the resulting mixture was heated to 40° C. Following cooling of the resultant to 2° C. with stirring, the precipitated crystals were collected by filtration. The obtained crystals were dried under reduced pressure, thereby obtaining 124.3 g (0.643 mol; yield: 26.8%) of N-tert-butylbicyclo[2.2.1]hept-5-ene-2-carboxamide having the following physical properties.

reactant | acryloyl chloride | 2.400 mol, 217.2 g | C(C=C)(=O)Cl | C3H3ClO
reactant | toluene | 520 g | C1(=CC=CC=C1)C | C7H8
reactant | cyclopentadiene | 2.880 mol, 190.4 g | C1=CC=CC1 | C5H6
reactant | tert-butylamine | 2.750 mol, 201.1 g | C(C)(C)(C)N | C4H11N
reactant | toluene | 513 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | 1.800 ml | C(C)(=O)OCC | C4H8O2
product | N-tert-butylbicyclo[2.2.1]hept-5-ene-2-carboxamide | 0.643 mol, 124.3 g, yield: 26.8% | C(C)(C)(C)NC(=O)C1C2C=CC(C1)C2 | C12H19NO
